US04139534
2-Cyclobutylcarbonyl-1-(p-methoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline (IIa)
Triethylamine (22.2 g., 0.22 mole) is slowly added to 1-(p-methoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline hydrochloride Ia (29.4 g., 0.1 mole) dissolved in 200 ml. of methylene chloride with stirring and ice-bath cooling. Cyclobutylcarbonyl chloride (13 g., 0.107 mole) in 30 ml. of methylene chloride is then added dropwise with stirring to the mixture while maintaining a temperature of 0° to 5° C. After stirring the reaction mixture for 1 hr. at room temperature, 100 ml. of water is added, the mixture acidified by adding 50 ml. of 10% sulfuric acid, and the methylene chloride layer separated. If desired, the methylene chloride solution containing IIa can be used for the next step directly or concentrated to give an oil which solidifies upon standing. Recrystallization of a sample of the solidified material from acetone provides crystalline product IIa, m.p. 89°-91°.

reactant | Triethylamine | 0.22 mole, 22.2 g | C(C)N(CC)CC | C6H15N
reactant | 1-(p-methoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline hydrochloride | Cl.COC1=CC=C(CC2NCCC=3CCCCC23)C=C1
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | Cyclobutylcarbonyl chloride | 0.107 mole, 13 g | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | water | O | H2O
product | 2-Cyclobutylcarbonyl-1-(p-methoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline | C1(CCC1)C(=O)N1C(C=2CCCCC2CC1)CC1=CC=C(C=C1)OC | C22H29NO2
